US07138491B2
The preparation of H-Asn-Arg-Pro-Ala-Lys-OH (5) (SEQ ID NO: 6)
The solution of 102 mg (0.1 mmol) of Boc-Asn-Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl (SEQ ID NO: 17), 1 ml of anisole and 2 ml of HF was stirred at 0° C. for 2 h. The reaction mixture was evaporated under reduced pressure to remove HF. To the residue 2 ml of HF were added and the solution was stirred at 0° C. for another 1 h. The reaction mixture was evaporated under reduced pressure to remove HF. The residue was triturated with ether and the resulted solid was purified on the Sephadex G-10 column. The collected fractions were lyophilized to provide 43 mg (80%) of the title compound. Mp. 168–170° C., FAB-MS (m/e) 585[M+H]+.

reactant | Boc-Asn-Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl | 0.1 mmol, 102 mg | N([C@@H](CC(N)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OCC2=C(Cl)C=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C51H69ClN10O13S
reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
product | H-Asn-Arg-Pro-Ala-Lys-OH | 43 mg, 80% | N[C@@H](CC(N)=O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCN)C(=O)O)CCC1 | C24H44N10O7
